US07956191B2
N-{[(2R)-2,3-dihydroxypropyl]oxy}-3-[(2-fluoro-4-iodophenyl)-amino]isonicotin-amide
A suspension of N-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-3-[(2-fluoro-4-iodophenyl)amino]isonicotinamide (synthesis described below) (3.0 g, 6.16 mmol) in dichloromethane (20 mL) was treated with trifluoroacetic acid (20 mL) and the clear-yellow solution was stirred at room temp. After stirring for 8 h, the contents were concentrated to a yellow oil, which was dissolved in ethyl acetate (100 mL) and poured into water (150 mL). The pH of the biphasic mixture was adjusted between 6 and 7 with 2.0 N aqueous sodium hydroxide and the layers were separated. The organics were dried over sodium sulfate, concentrated to a yellow oil and placed under high vacuum at 40° C. The resultant yellow, solid foam weighed 2.39 g (5.34 mmol, 87%) after drying for 18 h. LC/MS [5.22 min; 448 (M+1)]

reactant | N-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-3-[(2-fluoro-4-iodophenyl)amino]isonicotinamide | 6.16 mmol, 3.0 g | CC1(OC[C@@H](O1)CONC(C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)=O)C | C18H19FIN3O4
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-{[(2R)-2,3-dihydroxypropyl]oxy}-3-[(2-fluoro-4-iodophenyl)-amino]isonicotin-amide | O[C@@H](CONC(C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)=O)CO | C15H15FIN3O4
